US07470713B2
4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one:
4-Ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol (0.379 g, 0.90 mmol) was dissolved in acetic acid/hydrochloric acid (2 ml/2 mL) and the resulting mixture was stirred at 95° C. for 1 hour. The solvent was evaporated and the crude residue (HPLC 95% (220 nm), LCMS (+ESI, M+H+) m/z 408) was dissolved in methanol (6 mL) and treated with titanium (III) chloride (9.25 wt % in 27.4 wt % hydrochloric acid, ˜1 mL). The reaction was heated at 65° C. for ˜2.5 hours, then water was added and the solvent was evaporated to give a residue (HPLC 83% (220 nm), LCMS (+ESI, M+H+) m/z 392) which was dissolved in N,N-dimethylformamide (6 mL). The resulting solution was treated with triethylamine (0.38 mL, 2.7 mmol) and the hydrochloric acid salt of (S)-2-amino-1-[3-chlorophenyl]ethanol (0.281 g, 1.35 mmol) and this was heated at 65° C. for 4 hours. The solvent was evaporated and the residue was purified by Prep HPLC (ammonium acetate/acetonitrile/water) to give the title compound (0.132 g, 34%) as a beige solid. HPLC 97.5% (220 nm), LCMS (+ESI, M+H+) m/z 435; IR ν (cm−1): 3261, 2965, 1642; 1H NMR (400 MHz, methanol-d4) δ (ppm): 1.36 (3H, t, J=7.5 Hz), 2.97 (2H, qa, J=7.5 Hz), 3.64 (1H, dd, J=13.5 and 6.9 Hz), 3.70 (1H, dd, J=13.7 and 5.0 Hz), 4.97 (1H, br t), 6.25 (1H, d, J=7.5 Hz), 7.21-7.33 (4H, m), 7.35-7.47 (4H, m), 7.52 (1H, s), 7.69 (1H, d).

reactant | 4-Ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol | 0.90 mmol, 0.379 g | C(C)C=1N=C(N(C1C1=CC=CC=C1)O)C=1C(=NC=CC1I)OC | C17H16IN3O2
reactant | triethylamine | 2.7 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | (S)-2-amino-1-[3-chlorophenyl]ethanol | 1.35 mmol, 0.281 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
solvent | acetic acid hydrochloric acid | 2 ml | C(C)(=O)O.Cl
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-ethyl-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one | 0.132 g, 34% | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC(=C(N1)CC)C1=CC=CC=C1)O | C24H23ClN4O2
